US09085582B2
Sodium carbonate (43.0 mg), 1H-pyrazole-5-boronic acid (24.8 mg) and bis(triphenylphosphine)palladium(II) chloride (13.0 mg) were added to a 2-5 ml microwave vial. A solution of (4S)-6-(4-chlorophenyl)-4-[2-(ethylamino)-2-oxoethyl]-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl trifluoromethanesulfonate (for a preparation see intermediate 3) (100 mg) in DME (3 ml) and water (1 ml) was added. The reaction mixture was heated at 120° C. for 30 min (microwave). Ethyl acetate (2 ml) was added and the water layer was separated. The organic phase was dried and the solvent evaporated. The residue was chromatographed (0-5% methanol:DCM) and the product further purified by MDAP (formate modifier). The resulting gum was loaded on a 1 g SCX-2 column and washed with ammonia in methanol (2M) to give 2-[(4S)-6-(4-chlorophenyl)-1-methyl-8-(1H-pyrazol-5-yl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide as a brown oil (15.6 mg).

reactant | Sodium carbonate | 43.0 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1H-pyrazole-5-boronic acid | 24.8 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | (4S)-6-(4-chlorophenyl)-4-[2-(ethylamino)-2-oxoethyl]-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C(=N[C@H](C=3N2C(=NN3)C)CC(=O)NCC)C3=CC=C(C=C3)Cl)C1)(F)F | C22H19ClF3N5O4S
reactant | water | 1 ml | O | H2O
solvent | DME | 3 ml | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 13.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(4S)-6-(4-chlorophenyl)-1-methyl-8-(1H-pyrazol-5-yl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N-ethylacetamide | 15.6 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=NN3)C(=NN2)C)CC(=O)NCC | C24H22ClN7O
